US08877968B2
To 3.22 g (10.9 mmol) of (R)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)-propionic acid dissolved in 20 mL of DMF are added 2.29 g (12.0 mmol) of EDC, 1.62 g (12.0 mmol) of HOBt, 2.62 g (10.9 mmol) of ethyl 4-cyclohexylpiperidine-4-carboxylate (cf. preparation 3-1-2) and 4.6 mL (32.7 mmol) of triethylamine. After stirring for 2 hours 30 minutes, the reaction is stopped by adding aqueous 1N sodium hydroxide solution and the organic products are extracted with dichloromethane. The organic phase is dried over MgSO4, filtered and evaporated. The crude product obtained is chromatographed on silica gel (eluent: 7/3 heptane/EtOAc). 3.70 g of ethyl 1-[(R)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)propionyl]-4-cyclohexyl-piperidine-4-carboxylate in the form of a white powder are obtained in a yield of 66%.

reactant | (R)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)-propionic acid | 10.9 mmol, 3.22 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)OC | C15H21NO5
reactant | EDC | 12.0 mmol, 2.29 g
reactant | HOBt | 12.0 mmol, 1.62 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethyl 4-cyclohexylpiperidine-4-carboxylate | 10.9 mmol, 2.62 g | C1(CCCCC1)C1(CCNCC1)C(=O)OCC | C14H25NO2
reactant | triethylamine | 32.7 mmol, 4.6 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ethyl 1-[(R)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)propionyl]-4-cyclohexyl-piperidine-4-carboxylate | 3.70 g, yield of 66% | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1CCC(CC1)(C(=O)OCC)C1CCCCC1)CC1=CC=C(C=C1)OC | C29H44N2O6
